US06353139B1
Under the same reaction procedure and conditions as in Example 1 (benzaldehyde 0.5 mmol, 2-amino-3-picoline 0.1 mmol, aniline 0.3 mmol, 1-hexene 2.5 mmol, toluene 0.87 mmol), various kinds of acids 0.03 mmol as shown in the following table 4, were added to each 500 ml pressure reactor. The mixture was stirred at normal temperature for 2-3 minutes and then combined with Rh(PPh3)3Cl 0.01 mmol. While the reactor was stopped with a stopper, the reactants were heated at 130° C. for 1 hour with stirring. After completion of the reaction, gas chromatography was conducted to determine the yields of heptanophenone, products from various acids and the results are given in Table 4, below.

reactant | benzaldehyde | 0.5 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-amino-3-picoline | 0.1 mmol | NC1=NC=CC=C1C | C6H8N2
reactant | aniline | 0.3 mmol | NC1=CC=CC=C1 | C6H7N
reactant | 1-hexene | 2.5 mmol | C=CCCCC | C6H12
reactant | toluene | 0.87 mmol | C1(=CC=CC=C1)C | C7H8
product | heptanophenone | C(CCCCCC)(=O)C1=CC=CC=C1 | C13H18O
